US07994196B2
1-(tert-Butoxycarbonyl)-3-methylpiperazine (Oakwood Co., 1.36 g), 5-bromo-2-chlorobenzotrifluoride (Tokyo Chemical Industry CO., LTD., 2.0 g), 2-(di-tert-phosphino)biphenyl (STREM, 41 mg), tris(dibenzylideneacetone)dipalladium (Aldrich Co., 62 mg) and sodium tert-butoxide (980 mg) were added to toluene (10 ml), and the mixture was stirred with heating at 60° C. for 3 hr. After completion of the reaction, the insoluble material was filtered off, and the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (7:1-3:1)). A 4N hydrochloric acid-ethyl acetate solution was added to the obtained solid and the mixture was stirred for 5 hr. Diethyl ether was added thereto, and the precipitated solid was collected by filtration to give 1-[4-chloro-3-(trifluoromethyl)phenyl]-2-methylpiperazine hydrochloride (692 mg, yield 32%).

reactant | 1-(tert-Butoxycarbonyl)-3-methylpiperazine | 1.36 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C | C10H20N2O2
reactant | 5-bromo-2-chlorobenzotrifluoride | 2.0 g | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | sodium tert-butoxide | 980 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 62 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-chloro-3-(trifluoromethyl)phenyl]-2-methylpiperazine hydrochloride | 692 mg, yield 32% | Cl.ClC1=C(C=C(C=C1)N1C(CNCC1)C)C(F)(F)F | InChI=1S/C12H14ClF3N2.ClH/c1-8-7-17-4-5-18(8)9-2-3-11(13)10(6-9)12(14,15)16;/h2-3,6,8,17H,4-5,7H2,1H3;1H
